### PR TITLE
chore: update nighlty-update-2025-02-17

### PR DESCRIPTION
**Pull request by luisacicolini**

### CODE REVIEW

**Comment by luisacicolini** [comment]
@bollu @ineol most problems are with autostruct-related files (+ one error in the `Core/Framework`) which I can't fix either. Would be great if you could take a look at this - post rebuttal, no hurry!

File: SSA/Experimental/Bits/AutoStructs/ForMathlib.lean [hunk 1]
```diff
@@ -223,21 +219,26 @@ lemma BitVecs'.transport_getElem' {bvs' : BitVecs' m} (f : Fin n → Fin m) (i :
...
   simp [dec]
-  ext1 i hi
-  simp_all [BitVecs'.tranport_length, BitVec.getLsbD_cast']
+  ext1 j hj
+  simp at h hj ⊢
+  simp_all
+  simp at h ⊢
+  -- TODO: FIXME: why is this necessary to have the rewrite work?
+  generalize_proofs h1 h2 h3 h4
+  rw [BitVec.ofFn_getElem _ h4]
```
Comment (ineol) [inline SSA/Experimental/Bits/AutoStructs/ForMathlib.lean:234]: Does anyone know why `h4` is needs to be given explicitely? cc @bollu

Comment (luisacicolini) [reply SSA/Experimental/Bits/AutoStructs/ForMathlib.lean:234]: the def
```lean4
@[simp]
theorem BitVec.ofFn_getElem {w : Nat} (f : Fin w → Bool) {i : Nat} (hi : i < w) :
    (BitVec.ofFn f)[i] = f ⟨i, hi⟩ := by
  simp_all [←getLsbD_eq_getElem]
```
seems to require it, no?

**Comment by ineol** [comment]
There are still some errors in `Experimental.Bits.Fast` and its copy

**Comment by bollu** [comment]
I've fixed up parts of the codebase I own. @ineol , see that `x.getLsbD i` is now no longer the simp-normal form, and rather it is `x[I]` (spelled as `GetElem`). If you could perform the appropriate changes throughout the automata impl, that would be super. I tried mechanically for 5min, and then realized that I lacked a bunch of context in the larger proofs such as `NFA.autSignedCmp_correct `
